US04973772
A reaction mixture of 85.3 g of 4-chloronitrobenzene (CNB), 45.3 g of potassium fluoride, 1.4 g of the N-neopentyl-4-(N',-N'-di-n-butylamino)pyridinium chloride (NPDBAPC) obtained in Example lII in 109.6 g of sulfolane was heated with stirring for 9 hours at 205°-215° C. At the end of this period, HPLC assay of a sample of the reaction mixture indicated less than 1% residual CNB. Simple distillation of the reaction mixture under vacuum gave 73.6 g of 4-fluoronitrobenzene (FNB) for a 96.3% yield.

reactant | 4-chloronitrobenzene | 85.3 g | ClC1=CC=C(C=C1)[N+](=O)[O-] | C6H4ClNO2
reactant | potassium fluoride | 45.3 g | [F-].[K+]
solvent | sulfolane | 109.6 g | S1(=O)(=O)CCCC1 | C4H8O2S
catalyst | N-neopentyl-4-(N',-N'-di-n-butylamino)pyridinium chloride | 1.4 g | [Cl-].C(C(C)(C)C)[N+]1=CC=C(C=C1)N(CCCC)CCCC
product | 4-fluoronitrobenzene | 73.6 g, 96.3% yield | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
